US05310743
b) (2R*,4R*)-2-Benzyl-4-hydroxypiperidine
150 g (0.467 mol) of 2-benzyl-N-benzyloxycarbonyl-2,3-dihydro-4-(1H)-pyridone in 1.5 l of methanol are hydrogenated with 7.5 g of Pd/C (10%) as catalyst, then 50 g of Raney nickel and a further 200 ml of methanol are added, and hydrogenation is left to go to completion. Filtration is followed by evaporation in a rotary evaporator, and the brownish oil is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (60:10:1). The title compound is obtained as a semi-crystalline mass which is used further without additional purification. Crystallisation of a sample from ether/hexane yielded white crystals of melting point 111°-112°. TLC: methylene chloride/methanol/conc. ammonia (40:10:1) Rf =0.55, FD-MS: M+ =191.

reactant | 2-benzyl-N-benzyloxycarbonyl-2,3-dihydro-4-(1H)-pyridone | 0.467 mol, 150 g | C(C1=CC=CC=C1)C1N(C=CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C20H19NO3
solvent | methanol | 1.5 l | CO | CH4O
catalyst | Pd/C | 7.5 g | [Pd] | Pd
catalyst | Raney nickel | 50 g | [Ni] | Ni
solvent | methanol | 200 ml | CO | CH4O
product | (2R*,4R*)-2-Benzyl-4-hydroxypiperidine | C(C1=CC=CC=C1)[C@H]1NCC[C@H](C1)O | C12H17NO
